US06326386B1
{2-[3-Chloro-5-(cyclohexyl-methyl-carbamoyl)-phenoxy]-ethyl}pyridin-4-yl-carbamic acid tert-butyl ester
To a stirred solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.039 g), TBTU (0.064 g) and HOBt (0.027 g) in DMF (1 ml) was added DIPEA (0.036 ml) followed by N-methylcyclohexylamine (0.027 ml) after 15 min. The reaction mixture was stirred at room temperature for 18 h and then concentrated under reduced pressure. The residue was subjected to preparative hplc and the title compound (0.036 g) was obtained as a colourless gum by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.039 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | TBTU | 0.064 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.027 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.036 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylcyclohexylamine | 0.027 ml | CNC1CCCCC1 | C7H15N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | {2-[3-Chloro-5-(cyclohexyl-methyl-carbamoyl)-phenoxy]-ethyl}pyridin-4-yl-carbamic acid tert-butyl ester | 0.036 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(C)C1CCCCC1)=O)Cl)=O | C26H34ClN3O4
